Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
mania
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___, ___ senior with remote history of ADHD and no other
past psychiatric hx who was brought in by ambulance on ___ from ___ for evaluation of thought disorder, 
disorganized thinking and distorted reality, with presentation 
concerning for first
acute manic episode. Per collateral from mother, there has
been concern for his behavior since ___ during which
time he began to demonstrate pressured speech, poor sleep and
grandiosity. 

In the ED, initial vitals were:  98.2 92 112/68 20 100% RA 

The patient was seen by psychiatry who placed him under ___ and per their evaluation said the patient likely had a manic 
episode of bipolar disorder which would be his first 
presentation. He was treated initially with zyprexa and Ativan 
to some effect. While waiting for placement at an inpatient 
psychiatric facility, the patient developed a fever to 103. 
NCHCT and CXR showed no acute process. LP was not concerning for 
meningitis. Influenza swap was positive and the patient was 
started on oseltamivir. 

+fevers, no chills. No chest pain, dyspnea, myalgia, 
paresthesia. No n/v/d. No HI, SI or AH.
 
On the floor,  patient was walking around his room with uncle at 
bedside with pressured speech and tangential thought process.
 

 
Past Medical History:
ADHD
 
Social History:
- Alcohol: Intermittent, social 
- Cocaine/amphetamines/speed: denies
- Opiates: denies
- Benzodiazepines: denies
- Marijuana/LSD/PCP: ___ recent recreational use, unclear 
if
synthetic 
- Tobacco: Intermittent
- Caffeine: Coffee 
- Born/Raised: ___, moved to ___, ___ for college
- Family/Support: Mother (___) and Father (both divorced)
- Relationship status/Children: Single, no children
- Housing: Lives in Apartment in ___ 
- Education: ___ as above. Started in ___, presumably a
senior. 
- Employment/Income: Part-time performer playing bass
- Spiritual: Jewish
- Trauma history: Mother stated divorce likely had affected him
in addition to death of her previous husband (his step-father)
likely affected him. 
 
Family History:
- Patient's mother diagnosed with depression since ___ years of
age and currently on lexapro
-Patient stated Aunt ___ with "depression, drug use, and
addictive personality"
-Patient's mother stated uncles on her mother's side with severe
psychiatric disorders although unclear when asked to clarify. 
She
also stated that her mother takes medications for depression,
panic d/o, and also takes a mood stabilizer. 
 
Physical Exam:
ADMISSION PHYSICAL
Vital Signs:  100.8 135/88 103 20 98ra
GEN: NAD
HEENT: sclerae anicteric
___: RRR no MRG
LUNGS: CTAB
ABD: NTND
EXT: warm, no edema
NEURO: CNII-XII grossly intact
PSYCH: +pressured speech and grandiosity, +tangential thoughts. 
No SI/HI or AH

DISCHARGE PHYSICAL
Vitals: 97.8 124/81 86 18 100ra
GEN: NAD
HEENT: sclerae anicteric
___: RRR, no MRG
LUNGS: CTAB, non-labored breathing
ABD: NTND
EXT: warm, no edema
PSYCH: talkative, not particularly tangential
 
Pertinent Results:
ADMISSION LABS
___ 12:50AM BLOOD WBC-7.4 RBC-4.62 Hgb-13.9 Hct-42.0 MCV-91 
MCH-30.1 MCHC-33.1 RDW-12.2 RDWSD-40.1 Plt ___
___ 12:50AM BLOOD Neuts-55.9 ___ Monos-11.0 Eos-2.4 
Baso-0.7 Im ___ AbsNeut-4.12 AbsLymp-2.21 AbsMono-0.81* 
AbsEos-0.18 AbsBaso-0.05
___ 12:50AM BLOOD Glucose-84 UreaN-11 Creat-0.8 Na-140 
K-4.1 Cl-100 HCO3-26 AnGap-18
___ 12:50AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.1
___ 12:50AM BLOOD TSH-3.1
___ 12:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:55PM BLOOD cTropnT-<0.01
___ 08:58PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 10:00AM BLOOD CK-MB-<1 cTropnT-<0.01

PERTINENT LABS
___ 12:50AM BLOOD TSH-3.1
___ 12:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:55PM BLOOD cTropnT-<0.01
___ 08:58PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 10:00AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 03:37AM URINE Color-Yellow Appear-Clear Sp ___
___ 03:37AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-80 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 03:37AM URINE RBC-0 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 04:45PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-0 Polys-0 
___ Macroph-2
___ 04:45PM CEREBROSPINAL FLUID (CSF) TotProt-41 Glucose-60

___ 02:40PM OTHER BODY FLUID FluAPCR-POSITIVE 
FluBPCR-NEGATIVE

HIV NEGATIVE

DISCHARGE LABS
NONE

IMAGING
EKG: RBBB

___ NCHCT 
IMPRESSION: 
1. Normal study. 

___ CXR
IMPRESSION:  
No acute cardiopulmonary process 

___ TTE
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. No atrial septal 
defect is suggested. Left ventricular wall thicknesses and 
cavity size are normal. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is low normal 
(biplane LVEF 56%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and low normal global biventricular systolic function. 
No valvular pathology or pathologic flow identified.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 
 

MICROBIOLOGY
__________________________________________________________
___ 1:50 pm URINE

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by PANTHER System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Negative for Neisseria gonorrhoeae by ___ System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 
__________________________________________________________
___ 4:45 pm CSF;SPINAL FLUID      Source: LP #3. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ with no PMH presents with altered mental status concerning 
for first episode of acute mania ___ bipolar disorder; had 
fevers and was found to be positive for influenza in ED. 
Admitted to medicine for oseltamivir treatment.

#Bipolar Disorder, manic: First episode. Per patient's mother 
the patient has had pressured speech, poor sleep and grandiosity 
since 4mo PTA. He was brought in to the ED via ambulance for 
concern from his friends that he was unsafe given his behavior. 
NCHCT wnl, LP not c/f infection, TSH wnl and serum tox all 
negative. Pt was seen by psychiatry in the ED and was placed 
under ___. He was started on zyprexa and Ativan with some 
effect. While searching for an inpatient psych bed, the patient 
spiked a fever and he was found to have influenza and was 
subsequently admitted to medicine. His mood was well controlled 
on zyprexa.

#Influenza: Pt spiked fever to 103 while in ED awaiting 
inpatient psych bed. NCHCT, CXR and LP all negative. No 
leukocytosis. Influenza A PCR was positive. Patient treated with 
oseltamivir x5 days and was afebrile after his first day of 
admission.

#Right Bundle Branch Block: Patient had chest discomfort and an 
EKG showed RBBB, unclear chronicity. No concerns for ischemia. 
No family history of sudden cardiac death. Trops neg x2. Team 
reviewed the patient's EKG with an electrophysiologist 
(consented to documentation of this informal discussion), who 
advised TTE to rule out structural heart disease, otherwise 
normal RBBB pattern. TTE showed no abnormalities.

#STD testing: pt requested STD testing while inhouse. RPR 
non-reactive. GC/Chlam negative. HIV ___ negative. Will need 
repeat HIV in ___ months to rule out acute infection.

TRANSITIONAL ISSUES
[ ] follow up psychiatry recommendations
[ ] recheck HIV in ___ months 

# CODE: Full
# CONTACT: ___ (Father) ___
 ___ (Uncle) ___
 
Medications on Admission:
None
 
Discharge Medications:
1. Lorazepam 1 mg PO Q6H:PRN agitation 
2. OLANZapine 5 mg PO QAM 
3. OLANZapine 10 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Bipolar Disorder
Influenza
Right Bundle Branch Block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your 
hospitalization. You came to the hospital because you were 
having disturbances in your mood. You were seen by psychiatry 
who gave you medications which improved your mood. In addition 
you were found to have the flu and were given medications to 
treat this. We did an EKG which showed an abnormality (called a 
right bundle branch block). This prompted us to get an 
ultrasound of your heart which showed no abnormalities.

You are being discharged to an inpatient psychiatric facility 
(___ Health in ___, ___) for further 
care. Your discharge medications and appointments are detailed 
bellow.

We wish you the best!

Your ___ Care Team
 
Followup Instructions:
___